* File: pc3c02.dist.sp.pex
* Created: Sun Jul  4 12:22:40 2010
* Program "Calibre xRC"
* Version "v2008.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_PC3C02%VSS 321 326 329 334 337 649 653 659 672 676 679 680 684 687
+ 696 702 708
c0 708 0 77.4189f
c1 696 0 1.31546f
c2 687 0 0.0174348f
c3 684 0 0.0227087f
c4 680 0 5.70554f
c5 679 0 0.0174348f
c6 676 0 0.0196406f
c7 672 0 8.92782f
c8 656 0 0.916298f
c9 646 0 1.3852f
c10 641 0 7.89977f
c11 633 0 1.16886f
c12 630 0 1.1318f
c13 624 0 1.137f
c14 621 0 1.17595f
c15 617 0 31.3446f
c16 613 0 9.93332f
c17 612 0 2.69597f
c18 608 0 2.23729f
c19 602 0 27.2782f
c20 590 0 20.9983f
c21 588 0 0.233073f
c22 584 0 12.6986f
c23 583 0 0.233714f
c24 582 0 5.38684f
c25 579 0 1.52253f
c26 578 0 4.46774f
c27 576 0 21.0492f
c28 575 0 2.55282f
c29 574 0 5.40246f
c30 572 0 1.78754f
c31 567 0 2.55282f
c32 566 0 9.04645f
c33 556 0 1.52253f
c34 555 0 16.5513f
c35 553 0 3.15046f
c36 552 0 2.33147f
c37 550 0 2.73276f
c38 549 0 1.72503f
c39 547 0 3.38547f
c40 546 0 12.8112f
c41 545 0 0.190476f
c42 544 0 0.469584f
c43 542 0 10.8474f
c44 540 0 2.88093f
c45 534 0 2.35379f
c46 533 0 0.202358f
c47 337 0 0.0305112f
c48 334 0 0.0247695f
c49 329 0 0.0228811f
c50 326 0 0.0247695f
c51 321 0 0.0305112f
c52 180 0 1.24926f
c53 175 0 25.1962f
c54 151 0 6.17108f
c55 142 0 0.163011f
c56 141 0 9.28609f
c57 134 0 0.0965554f
c58 23 0 3.72364f
c59 21 0 1.75766f
c60 18 0 3.78797f
r61 706 708 0.0004676 
r62 705 706 0.0834907 
r63 702 705 0.000703354 
r64 696 699 0.00176944 
r65 696 698 0.0661546 
r66 688 680 1.296 
r67 699 663 0.00605898 
r68 661 663 0.428571 
r69 659 661 0.24 
r70 656 659 0.0165079 
r71 656 706 0.131579 
r72 651 653 0.428571 
r73 649 651 0.189 
r74 646 649 0.013 
r75 646 705 0.131579 
r76 672 643 0.0357309 
r77 641 643 0.04 
r78 698 641 0.423016 
r79 680 638 0.147289 
r80 633 687 1.08 
r81 631 633 6 
r82 631 634 0.149153 
r83 630 684 1.08 
r84 628 630 6 
r85 628 631 0.0188235 
r86 680 627 0.0395 
r87 625 627 0.0196078 
r88 625 628 0.00494516 
r89 624 679 1.08 
r90 622 624 6 
r91 622 625 0.0138784 
r92 621 676 1.08 
r93 619 621 6 
r94 619 622 0.0188235 
r95 618 653 0.0230601 
r96 618 619 0.180179 
r97 617 699 0.02 
r98 617 634 0.0219342 
r99 672 615 0.0357309 
r100 613 615 0.04 
r101 612 653 0.0340795 
r102 612 613 0.469897 
r103 611 643 0.0464965 
r104 610 672 0.0811137 
r105 608 627 0.961 
r106 605 687 1.64 
r107 604 605 0.02 
r108 602 604 0.0507104 
r109 601 684 1.64 
r110 600 602 0.000874317 
r111 680 600 0.0229508 
r112 600 601 0.02 
r113 597 679 1.64 
r114 596 680 0.0286339 
r115 596 597 0.02 
r116 595 676 1.64 
r117 594 596 0.0515847 
r118 594 595 0.02 
r119 588 680 0.9825 
r120 587 615 0.0464965 
r121 586 672 0.0811137 
r122 583 608 0.0666177 
r123 583 584 0.0511528 
r124 582 585 0.0448283 
r125 582 584 0.0926542 
r126 578 610 0.0447463 
r127 578 672 0.0304053 
r128 579 576 0.0041621 
r129 576 672 0.00594332 
r130 575 576 0.00435556 
r131 574 611 0.0447254 
r132 574 672 0.0302222 
r133 572 604 0.00349727 
r134 572 602 0.339235 
r135 672 568 0.0795429 
r136 590 567 0.030733 
r137 567 568 0.00297143 
r138 575 566 0.0441641 
r139 566 672 0.0064 
r140 564 672 0.0110803 
r141 562 672 0.00864346 
r142 561 562 0.0226651 
r143 560 561 0.0226651 
r144 672 560 0.0128691 
r145 558 672 0.00836031 
r146 590 556 0.0307261 
r147 556 672 0.00182473 
r148 579 555 0.0407677 
r149 555 672 0.00605042 
r150 553 587 0.0447254 
r151 553 672 0.0275556 
r152 552 590 0.0134311 
r153 552 672 0.0195556 
r154 550 586 0.0447463 
r155 550 672 0.0265498 
r156 549 590 0.0100416 
r157 549 672 0.0193209 
r158 547 594 0.00349727 
r159 547 602 0.329618 
r160 545 546 0.0911528 
r161 544 588 0.0666177 
r162 544 546 0.0526542 
r163 543 545 0.0448283 
r164 542 680 0.2465 
r165 540 602 0.0386885 
r166 539 564 0.02 
r167 538 562 0.02 
r168 537 561 0.02 
r169 536 560 0.02 
r170 535 558 0.02 
r171 534 602 0.0502732 
r172 533 688 0.2535 
r173 539 337 2.1975 
r174 538 334 2.1975 
r175 537 329 2.1975 
r176 536 326 2.1975 
r177 535 321 2.1975 
r178 180 638 0.5 
r179 178 180 0.5 
r180 175 178 0.947668 
r181 175 634 0.0909091 
r182 680 151 0.36 
r183 150 680 0.3 
r184 542 149 0.0446983 
r185 149 151 0.3145 
r186 142 680 1.53854 
r187 141 150 0.0447072 
r188 141 680 1.4761 
r189 135 142 0.0447072 
r190 135 680 0.3 
r191 134 680 0.0885 
r192 132 134 0.04 
r193 132 680 0.229814 
r194 131 533 0.0446989 
r195 131 680 0.312547 
r196 23 585 0.322146 
r197 21 23 0.112074 
r198 540 21 0.0567627 
r199 21 584 0.0209809 
r200 534 19 0.0581769 
r201 19 546 0.0209855 
r202 18 543 0.322146 
r203 18 19 0.110867 
.ends

.subckt PM_PC3C02%VDD 284 289 296 301 308 313 320 325 332 366 376 404 415 423
+ 431 434 440
c0 440 0 89.1457f
c1 431 0 36.2515f
c2 417 0 28.6737f
c3 411 0 9.08866f
c4 404 0 12.1684f
c5 402 0 12.3128f
c6 376 0 1.43041f
c7 366 0 1.53395f
c8 359 0 2.05533f
c9 357 0 31.6942f
c10 355 0 1.88102f
c11 354 0 0.0703214f
c12 353 0 0.0775907f
c13 352 0 0.0745806f
c14 351 0 0.0733316f
c15 344 0 1.16731f
c16 342 0 32.0466f
c17 340 0 1.93996f
c18 338 0 1.16731f
c19 337 0 2.51601f
c20 332 0 3.58235f
c21 329 0 3.18895f
c22 325 0 1.7885f
c23 320 0 4.65637f
c24 317 0 0.347475f
c25 313 0 1.78647f
c26 308 0 5.28455f
c27 305 0 0.292635f
c28 301 0 1.78647f
c29 296 0 4.65653f
c30 293 0 0.347475f
c31 289 0 1.7885f
c32 284 0 3.58145f
c33 280 0 1.92768f
c34 279 0 1.30567f
c35 271 0 2.05533f
c36 268 0 1.1652f
c37 267 0 6.4735f
c38 265 0 3.49538f
c39 263 0 4.08751f
c40 261 0 2.37916f
c41 131 0 12.6172f
c42 126 0 3.78036f
c43 110 0 3.49186f
c44 107 0 0.973281f
c45 105 0 1.02198f
c46 102 0 36.9766f
c47 8 0 32.4808f
r48 438 440 0.000462331 
r49 437 438 0.0825499 
r50 434 437 0.000695428 
r51 428 429 0.0152277 
r52 427 428 0.382878 
r53 417 418 0.11055 
r54 420 415 0.00897078 
r55 415 418 0.186408 
r56 411 415 0.102913 
r57 408 428 0.0444444 
r58 408 404 0.0105107 
r59 404 405 0.047363 
r60 402 404 0.0233583 
r61 402 427 0.0444444 
r62 384 431 0.00261566 
r63 429 384 0.0264481 
r64 382 384 0.6 
r65 380 382 0.179048 
r66 380 438 0.0925926 
r67 376 380 0.0787302 
r68 374 427 0.0422587 
r69 423 374 0.00415301 
r70 372 374 0.6 
r71 370 372 0.141 
r72 370 437 0.0925926 
r73 366 370 0.062 
r74 364 417 0.0675728 
r75 415 364 0.00828479 
r76 362 364 0.0307692 
r77 356 404 0.0597457 
r78 355 404 0.0174798 
r79 349 350 0.0528852 
r80 348 349 0.0528852 
r81 415 348 0.00537815 
r82 346 415 0.047507 
r83 345 346 0.0528852 
r84 341 405 0.012187 
r85 340 402 0.0365609 
r86 338 359 0.0504102 
r87 338 357 0.00694097 
r88 337 350 0.00358543 
r89 359 337 0.170308 
r90 331 350 0.02 
r91 331 332 4.6725 
r92 330 354 0.00756288 
r93 329 356 0.108555 
r94 329 330 0.419379 
r95 324 354 0.049467 
r96 324 325 3.2 
r97 319 349 0.02 
r98 319 320 4.6725 
r99 318 353 0.00756288 
r100 317 354 0.00756288 
r101 317 318 0.0977245 
r102 312 353 0.049467 
r103 312 313 3.2 
r104 307 348 0.02 
r105 307 308 4.6725 
r106 306 352 0.00756288 
r107 305 353 0.00756288 
r108 305 306 0.0983851 
r109 300 352 0.049467 
r110 300 301 3.2 
r111 295 346 0.02 
r112 295 296 4.6725 
r113 294 351 0.00756288 
r114 293 352 0.00756288 
r115 293 294 0.0977245 
r116 288 351 0.049467 
r117 288 289 3.2 
r118 283 345 0.02 
r119 283 284 4.6725 
r120 280 341 0.108631 
r121 280 404 0.295652 
r122 279 351 0.00756288 
r123 279 404 0.121242 
r124 274 404 0.296471 
r125 271 345 0.00358543 
r126 271 344 0.170308 
r127 342 268 0.0494657 
r128 268 415 0.270028 
r129 357 267 0.04948 
r130 267 415 0.2893 
r131 265 344 0.0504102 
r132 265 342 0.00692665 
r133 263 342 0.000944544 
r134 263 415 0.114705 
r135 261 420 0.02 
r136 261 259 0.0464401 
r137 259 357 0.108408 
r138 258 342 0.108422 
r139 257 415 0.000644007 
r140 131 362 0.603333 
r141 129 131 0.666667 
r142 126 129 0.581161 
r143 126 429 0.133333 
r144 110 357 0.116279 
r145 110 415 0.00593918 
r146 109 411 0.02 
r147 109 415 0.0405009 
r148 258 107 0.0464401 
r149 257 105 0.0464401 
r150 101 107 0.0496984 
r151 101 102 0.401553 
r152 100 105 0.0496984 
r153 100 102 0.479223 
r154 404 8 0.0188235 
r155 8 355 0.0276122 
r156 8 340 0.0307262 
r157 8 274 0.0475915 
.ends

.subckt PM_PC3C02%CCLK 63 65 138 140 238 240 242 244 255 287 293
c0 290 0 9.42457f
c1 282 0 0.110005f
c2 272 0 2.64525f
c3 266 0 2.64325f
c4 264 0 1.16159f
c5 255 0 2.2026f
c6 253 0 6.39516f
c7 244 0 1.68501f
c8 242 0 1.61545f
c9 240 0 1.61545f
c10 238 0 1.68501f
c11 189 0 0.160295f
c12 187 0 6.51782f
c13 148 0 0.256031f
c14 140 0 0.775401f
c15 138 0 0.733706f
c16 107 0 0.523281f
c17 105 0 1.60802f
c18 103 0 0.137107f
c19 73 0 0.25603f
c20 65 0 0.74461f
c21 63 0 0.762682f
c22 32 0 0.524772f
c23 28 0 0.137097f
r24 284 293 0.0556364 
r25 290 284 6.25697 
r26 282 284 6 
r27 282 287 0.0556364 
r28 275 276 1.058 
r29 269 270 1.058 
r30 263 278 0.02 
r31 263 264 1.402 
r32 252 253 0.944 
r33 197 252 3.2978 
r34 192 290 6 
r35 197 189 6 
r36 278 189 0.000111111 
r37 187 189 6 
r38 187 192 4.20242 
r39 264 186 6 
r40 184 255 0.053452 
r41 184 186 2.73 
r42 128 140 85 
r43 124 138 85 
r44 123 244 197.5 
r45 148 122 9.36508 
r46 122 123 1.70635 
r47 119 242 197.5 
r48 118 148 9.36508 
r49 118 119 1.70635 
r50 108 275 0.466 
r51 272 108 1.448 
r52 108 253 6 
r53 107 128 7.56466 
r54 124 107 7.69397 
r55 272 107 6 
r56 275 105 6 
r57 103 148 0.034 
r58 276 103 6 
r59 53 65 85 
r60 49 63 85 
r61 48 240 197.5 
r62 73 47 9.36508 
r63 47 48 1.70635 
r64 44 238 197.5 
r65 43 73 9.36508 
r66 43 44 1.70635 
r67 33 269 0.466 
r68 266 33 1.448 
r69 33 252 6 
r70 32 53 7.56466 
r71 49 32 7.69397 
r72 266 32 6 
r73 30 105 1.18 
r74 269 30 6 
r75 28 73 0.034 
r76 270 28 6 
.ends

.subckt PM_PC3C02%CP 31 41 85 95 227 234 241 248 259 270
c0 271 0 0.0682488f
c1 259 0 1.35523f
c2 246 0 5.07353f
c3 239 0 5.15816f
c4 232 0 5.15355f
c5 225 0 5.07758f
c6 191 0 84.6146f
c7 183 0 83.3624f
c8 181 0 20.0621f
c9 180 0 36.4795f
c10 174 0 19.6146f
c11 161 0 44.1188f
c12 159 0 25.3725f
c13 147 0 49.6678f
c14 145 0 25.0047f
c15 105 0 1.19021f
c16 101 0 1.26164f
c17 92 0 1.9036f
c18 82 0 1.90845f
c19 73 0 2.21326f
c20 71 0 8.68829f
c21 65 0 2.39465f
c22 63 0 9.38733f
c23 51 0 1.25762f
c24 47 0 1.19333f
c25 38 0 1.90361f
c26 28 0 1.90845f
c27 19 0 2.38948f
c28 17 0 9.38162f
c29 11 0 2.21889f
c30 9 0 8.70047f
r31 270 271 0.299655 
r32 268 270 0.0262069 
r33 266 268 0.317586 
r34 256 259 0.0715294 
r35 256 268 0.133333 
r36 254 271 0.02 
r37 253 266 0.02 
r38 246 248 4.57 
r39 239 241 4.57 
r40 232 234 4.57 
r41 225 227 4.57 
r42 196 197 0.315789 
r43 191 193 0.105263 
r44 191 196 0.400951 
r45 188 189 0.315789 
r46 183 185 0.105263 
r47 183 188 0.411908 
r48 181 193 0.101039 
r49 180 181 0.02 
r50 179 180 0.0531588 
r51 178 179 0.0154501 
r52 177 178 0.0154501 
r53 176 177 0.0154501 
r54 174 185 0.103814 
r55 173 176 0.0519804 
r56 173 174 0.02 
r57 170 179 0.02 
r58 167 178 0.02 
r59 241 166 0.725 
r60 164 166 0.12 
r61 254 164 0.0897213 
r62 248 163 0.715 
r63 161 163 0.12 
r64 161 164 0.000178372 
r65 159 197 0.0823024 
r66 159 161 0.0437458 
r67 156 177 0.02 
r68 153 176 0.02 
r69 227 152 0.725 
r70 150 152 0.12 
r71 253 150 0.0915586 
r72 234 149 0.715 
r73 147 149 0.12 
r74 147 150 0.000182025 
r75 145 189 0.0831896 
r76 145 147 0.0454607 
r77 105 100 2.12 
r78 246 100 6 
r79 92 95 0.14 
r80 92 179 0.315789 
r81 101 90 2.12 
r82 239 90 6 
r83 82 85 0.14 
r84 82 178 0.315789 
r85 76 105 6 
r86 170 73 4.5725 
r87 71 73 6 
r88 71 76 16.39 
r89 68 101 6 
r90 167 65 4.5725 
r91 63 65 6 
r92 63 68 16.39 
r93 51 46 2.12 
r94 232 46 6 
r95 38 41 0.14 
r96 38 177 0.315789 
r97 47 36 2.12 
r98 225 36 6 
r99 28 31 0.14 
r100 28 176 0.315789 
r101 22 51 6 
r102 156 19 4.5725 
r103 17 19 6 
r104 17 22 16.39 
r105 14 47 6 
r106 153 11 4.5725 
r107 9 11 6 
r108 9 14 16.39 
.ends

.subckt PM_PC3C02%NODE 135 137 153 302 304 320 399 401 403 405 453 457 461 465
+ 469 473 477 481 490 491
c0 491 0 3.15176f
c1 490 0 3.15176f
c2 481 0 1.88389f
c3 477 0 1.39495f
c4 473 0 1.39495f
c5 469 0 1.24927f
c6 465 0 1.24927f
c7 461 0 1.39495f
c8 457 0 1.39495f
c9 453 0 1.88346f
c10 405 0 0.868341f
c11 403 0 0.649602f
c12 401 0 0.649233f
c13 399 0 0.870407f
c14 334 0 0.210766f
c15 328 0 2.88397f
c16 320 0 1.40807f
c17 317 0 0.352858f
c18 315 0 1.31765f
c19 308 0 0.30001f
c20 304 0 0.646553f
c21 302 0 0.647105f
c22 276 0 1.77171f
c23 270 0 0.253281f
c24 264 0 12.1082f
c25 258 0 0.237707f
c26 256 0 0.0685981f
c27 197 0 0.11182f
c28 195 0 0.00915476f
c29 194 0 0.0948023f
c30 190 0 0.0667564f
c31 189 0 0.00915476f
c32 184 0 0.0924878f
c33 182 0 0.0285163f
c34 178 0 0.0603642f
c35 177 0 0.0888465f
c36 176 0 0.166787f
c37 174 0 0.0207811f
c38 173 0 0.0987158f
c39 172 0 0.0207811f
c40 171 0 0.034125f
c41 170 0 0.126743f
c42 169 0 0.0250391f
c43 167 0 0.210786f
c44 161 0 2.88425f
c45 153 0 1.40807f
c46 150 0 0.352516f
c47 141 0 0.303938f
c48 137 0 0.646777f
c49 135 0 0.64716f
c50 109 0 1.77165f
c51 103 0 0.253796f
c52 97 0 12.1069f
c53 91 0 0.235651f
c54 89 0 0.0706922f
c55 30 0 0.108409f
c56 28 0 0.00915476f
c57 27 0 0.0948023f
c58 23 0 0.0667564f
c59 22 0 0.00915476f
c60 17 0 0.092246f
c61 15 0 0.0285163f
c62 11 0 0.0537159f
c63 10 0 0.0891146f
c64 9 0 0.158403f
c65 7 0 0.0207811f
c66 6 0 0.0984205f
c67 5 0 0.0207811f
c68 4 0 0.0411939f
c69 3 0 0.128058f
c70 2 0 0.0323221f
r71 490 501 0.47 
r72 320 325 1.2725 
r73 317 334 2 
r74 503 315 0.786667 
r75 501 315 6 
r76 308 311 0.000863309 
r77 308 328 6 
r78 276 334 1.41333 
r79 274 276 6 
r80 272 274 2.20833 
r81 272 315 6 
r82 325 270 6 
r83 268 270 6 
r84 268 272 4.895 
r85 328 266 2.67833 
r86 264 266 6 
r87 264 268 3.82333 
r88 257 317 0.231667 
r89 256 258 0.114595 
r90 256 257 0.02 
r91 199 405 238 
r92 198 481 542.333 
r93 194 311 14.2857 
r94 194 195 2.23066 
r95 193 304 238 
r96 193 195 0.93595 
r97 192 477 542.333 
r98 191 192 1.57738 
r99 190 258 10.6667 
r100 190 191 5.83616 
r101 188 311 14.2857 
r102 188 189 2.23066 
r103 187 302 238 
r104 187 189 0.93595 
r105 186 473 542.333 
r106 185 186 1.57443 
r107 184 258 10 
r108 184 185 6.07866 
r109 181 469 542.333 
r110 180 403 238 
r111 178 199 3.37824 
r112 178 197 8.28571 
r113 177 191 4.40759 
r114 176 198 3.35237 
r115 176 177 30.3333 
r116 175 195 2.23066 
r117 174 197 12 
r118 174 175 8.28571 
r119 182 173 12 
r120 172 189 2.23066 
r121 172 173 8.28571 
r122 171 181 3.35237 
r123 170 185 4.24659 
r124 170 171 31 
r125 169 180 3.37824 
r126 182 169 8.28571 
r127 153 158 1.2725 
r128 150 167 2 
r129 491 147 0.47 
r130 147 503 6 
r131 141 144 0.000863309 
r132 141 161 6 
r133 109 167 1.41333 
r134 107 109 6 
r135 105 107 2.20833 
r136 105 503 6 
r137 158 103 6 
r138 101 103 6 
r139 101 105 4.895 
r140 161 99 2.67833 
r141 97 99 6 
r142 97 101 3.82333 
r143 90 150 0.231667 
r144 89 91 0.114595 
r145 89 90 0.02 
r146 32 401 238 
r147 31 465 542.333 
r148 27 144 14.2857 
r149 27 28 2.23066 
r150 26 137 238 
r151 26 28 0.93595 
r152 25 461 542.333 
r153 24 25 1.57738 
r154 23 91 10.6667 
r155 23 24 5.83616 
r156 21 144 14.2857 
r157 21 22 2.23066 
r158 20 135 238 
r159 20 22 0.93595 
r160 19 457 542.333 
r161 18 19 1.57443 
r162 17 91 10 
r163 17 18 6.07866 
r164 14 453 542.333 
r165 13 399 238 
r166 11 32 3.37824 
r167 11 30 8.28571 
r168 10 24 4.40759 
r169 9 31 3.35237 
r170 9 10 30.3333 
r171 8 28 2.23066 
r172 7 30 12 
r173 7 8 8.28571 
r174 15 6 12 
r175 5 22 2.23066 
r176 5 6 8.28571 
r177 4 14 3.35237 
r178 3 18 4.24659 
r179 3 4 31 
r180 2 13 3.37824 
r181 15 2 8.28571 
.ends

.subckt PM_PC3C02%VDDO 221 225 228 233 240 246 252 255 260 268 297 303 306 311
c0 311 0 19.7774f
c1 303 0 53.8958f
c2 270 0 0.185966f
c3 265 0 0.470161f
c4 260 0 62.5827f
c5 252 0 51.3902f
c6 237 0 0.611631f
c7 233 0 3.937f
c8 225 0 2.23845f
c9 215 0 0.0892801f
c10 214 0 0.906597f
c11 192 0 0.0892801f
c12 191 0 4.80629f
c13 189 0 10.2878f
c14 37 0 11.3929f
c15 28 0 1.04153f
c16 26 0 33.2324f
c17 20 0 0.882344f
c18 17 0 0.186228f
c19 16 0 4.65868f
c20 7 0 0.184846f
c21 6 0 4.92552f
r22 302 303 0.00277996 
r23 297 300 0.00479303 
r24 272 311 0.00262523 
r25 270 272 0.5 
r26 268 270 0.229841 
r27 265 268 0.215873 
r28 265 302 1.5 
r29 255 258 0.0290124 
r30 251 252 0.138848 
r31 250 251 0.0861833 
r32 244 272 0.468739 
r33 306 244 0.00394881 
r34 242 244 0.5 
r35 240 242 0.181 
r36 237 240 0.17 
r37 237 300 1.5 
r38 235 250 0.02 
r39 231 233 0.056878 
r40 228 231 0.0510041 
r41 219 277 0.1015 
r42 192 214 0.04 
r43 192 277 0.0315 
r44 191 215 0.04 
r45 191 277 0.0585 
r46 189 277 0.509 
r47 187 219 0.3915 
r48 35 250 0.0012286 
r49 246 35 0.035569 
r50 35 37 0.04 
r51 34 225 0.069424 
r52 221 34 0.0614904 
r53 251 34 0.00378788 
r54 32 302 0.482004 
r55 300 32 0.0768627 
r56 30 32 0.1 
r57 235 30 0.228501 
r58 28 219 0.5 
r59 26 28 0.5 
r60 26 30 0.96115 
r61 23 260 0.113756 
r62 258 23 0.0729958 
r63 23 231 0.00344353 
r64 37 22 0.26696 
r65 258 22 0.04 
r66 20 215 0.415696 
r67 189 17 0.0446983 
r68 17 277 0.9345 
r69 16 20 0.0447006 
r70 16 277 0.975 
r71 10 214 0.426835 
r72 187 7 0.0446983 
r73 7 277 0.9345 
r74 6 10 0.0447006 
r75 6 277 0.975 
.ends

.subckt PM_PC3C02%VSSO 12 16 20 25 32 42 48 54 57 63
c0 63 0 29.8736f
c1 54 0 41.8958f
c2 38 0 1.03333f
c3 28 0 1.07466f
c4 25 0 88.7981f
c5 16 0 9.78157f
r6 61 63 0.00199444 
r7 60 61 0.356278 
r8 57 60 0.00283333 
r9 45 61 0.357143 
r10 42 45 0.266667 
r11 40 54 0.00298396 
r12 52 40 0.661818 
r13 38 40 1 
r14 38 42 0.565079 
r15 35 60 0.357143 
r16 32 35 0.21 
r17 30 52 0.0249198 
r18 48 30 0.00545455 
r19 28 30 1 
r20 28 32 0.445 
r21 24 25 0.0830497 
r22 23 24 0.0758705 
r23 20 23 0.00779737 
r24 7 16 0.0415248 
r25 12 7 0.0418339 
r26 24 7 0.00157233 
r27 3 52 0.3 
r28 1 23 0.02 
r29 1 3 0.941849 
.ends

